US04876249
100 mmoles of 2-cyanododecane is treated with 120 mmoles of 2-aminoethanol in 50 ml of 1-butanol in presence of 2.5 mmoles of cadmium acetate dihydrate as outlined under Example 1 to give 2-(2-dodecyl)-2oxazoline.

reactant | 2-cyanododecane | 100 mmoles | C(#N)C(C)CCCCCCCCCC | C13H25N
reactant | 2-aminoethanol | 120 mmoles | NCCO | C2H7NO
solvent | 1-butanol | 50 ml | C(CCC)O | C4H10O
catalyst | cadmium acetate dihydrate | 2.5 mmoles | O.O.C(C)(=O)[O-].[Cd+2].C(C)(=O)[O-]
product | 2-(2-dodecyl)-2oxazoline | CC(CCCCCCCCCC)C=1OCCN1 | C15H29NO
